US07534797B2
cis-3-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutanecarboxylic acid
This compound was prepared utilizing the same procedures as those used for the synthesis of cis-3-[8-amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutanecarboxylic acid amide except the reaction was monitored at short intervals to minimize the amide formation. The reaction generated a mixture of ester and amide (2:1), which was treated with NaOH (0.15 mL) in THF (0.95 mL) and MeOH (1 mL). The reaction was left to stir at rt for 3 h. The mixture was concentrated in vacuo, diluted with DCM and washed with water. The product was purified by MDP, to afford the title compound as a yellow solid; MS (ES+): m/z 436.27 (40) [MH+]; 1H NMR (400 MHz, DMSO-d6) δ 2.62-2.67 (m, 5H) 3.16 (s, 1H) 3.90-3.91 (m, 1H) 6.21 (s, 1H) 7.10 (d, J=5.2 Hz, 1H) 7.50-7.59 (m, 4H) 7.93 (dd, J=6.8, 1.6 Hz, 1H) 8.10 (d, J=8.4 Hz, 1H) 8.18 (d, J=8.8 Hz, 1H) 8.25 (s, 1H) 8.30-8.33 (m, 2H) 8.51 (d, J=8.4 Hz, 1H).

reactant | cis-3-[8-amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutanecarboxylic acid amide | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@H]2C[C@H](C2)C(=O)N | C26H22N6O
reactant | NaOH | 0.15 mL | [OH-].[Na+]
solvent | THF | 0.95 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | cis-3-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutanecarboxylic acid | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@H]2C[C@H](C2)C(=O)O | C26H21N5O2
